US09284323B2
Preparation of ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-oxoacetate:
To a solution of ethyl 2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate (235 mg, 0.50 mmol) in PhCH3 (1.2 mL), EtOH (0.6 mL), H2O (0.6 mL) was added 4-chlorophenylboronic acid (86 mg, 0.55 mmol), K2CO3 (207 mg, 1.5 mmol), and PdCl2dppf (11 mg, 0.015 mmol). The reaction mixture was stirred at room temperature for 2 h and was then diluted with H2O and EtOAc. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give the titled compound and 37 mg of the bis-coupled product (ethyl 2-(1,7-bis(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-oxoacetate). 1H-NMR: 400 MHz, (CDCl3) δ: 7.60-7.72 (m, 4H), 7.45 (m, 2H), 7.23 (m, 2H), 3.93 (q, J=7 Hz, 2H), 2.48 (s, 3H), 1.13 (t, J=7 Hz, 3H).

reactant | ethyl 2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | 0.50 mmol, 235 mg | BrC1=CC=C2C=C(C(=C(C2=C1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O)C | C16H12BrF3O6S
reactant | 4-chlorophenylboronic acid | 0.55 mmol, 86 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 1.5 mmol, 207 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | PhCH3 | 1.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 0.6 mL | CCO | C2H6O
solvent | H2O | 0.6 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-oxoacetate | BrC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)=O)C | C21H16BrClO3
